US09120776B2
A solution of crotonic acid (8.24 mL, 98.31 mmol) and thionyl chloride (7.18 mL, 98.31 mmol) in DMA (150 mL) was stirred at 0° C. for 1 hr. To the reaction mixture was added 4-amino-2-chlorobenzonitrile (15 g, 98.31 mmol), and the mixture was stirred at room temperature for additional 14 hr. To the reaction solution was added brine at room temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N aqueous sodium hydroxide solution and 1N hydrochloric acid, and dried, and the solvent was evaporated under reduced pressure to give (E)-N-(3-chloro-4-cyanophenyl)but-2-enamide (21.69 g, 98.31 mmol, quantitative) as a brownish-red powder.

reactant | crotonic acid | 98.31 mmol, 8.24 mL | C(\C=C\C)(=O)O | C4H6O2
reactant | thionyl chloride | 98.31 mmol, 7.18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-amino-2-chlorobenzonitrile | 98.31 mmol, 15 g | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
solvent | DMA | 150 mL | CC(=O)N(C)C | C4H9NO
solvent | brine | [Cl-].[Na+].O
product | (E)-N-(3-chloro-4-cyanophenyl)but-2-enamide | 98.31 mmol, 21.69 g | ClC=1C=C(C=CC1C#N)NC(\C=C\C)=O | C11H9ClN2O
